US09284323B2
(S)-ethyl 2-tert-butoxy-2-(6-chloro-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate was prepared in a similar way as (S)-ethyl 2-tert-butoxy-2-(3,4-dimethyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate in Example 1 except using 6-chloro-3-methylnaphthalen-1-ol instead of 3,4-dimethylnaphthalen-1-ol. 1H NMR (400 MHz, CDCl3) δ 7.98 (d, J=9.1 Hz, 1H), 7.78 (s, 1H), 7.58 (s, 1H), 7.51 (dd, J=9.0, 1.8 Hz, 1H), 5.70 (s, 1H), 4.17 (dqd, J=14.2, 7.1, 3.2 Hz, 2H), 2.55 (s, 3H), 1.20 (s, J=6.5 Hz, 9H), 1.17 (t, J=7.1 Hz, 3H).

reactant | (S)-ethyl 2-tert-butoxy-2-(3,4-dimethyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC=CC=C2C(=C1C)C)OS(=O)(=O)C(F)(F)F | C21H25F3O6S
reactant | 6-chloro-3-methylnaphthalen-1-ol | ClC=1C=C2C=C(C=C(C2=CC1)O)C | C11H9ClO
product | (S)-ethyl 2-tert-butoxy-2-(6-chloro-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC=C(C=C2C=C1C)Cl)OS(=O)(=O)C(F)(F)F | C20H22ClF3O6S
